US07214694B2
Preparation 136: tert-butyl(3R)-6-cyclohexyl-3-(3-{[[2-(dimethylamino)-2-oxoethyl](methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method as for preparation 56 using [({5-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-4-cyclohexylbutyl]-1,2,4-oxadiazol-3-yl}methyl)(methyl)amino]acetic acid (preparation 133) (725 mg, 1.71 mmol) and Me2NH.HCl (106 mg, 1.30 mmol) as starting materials.

reactant | [({5-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-4-cyclohexylbutyl]-1,2,4-oxadiazol-3-yl}methyl)(methyl)amino]acetic acid | 1.71 mmol, 725 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)CN(C)CC(=O)O)=O | C22H37N3O5
reactant | Me2NH.HCl | 1.30 mmol, 106 mg | N(C)C.Cl
product | tert-butyl(3R)-6-cyclohexyl-3-(3-{[[2-(dimethylamino)-2-oxoethyl](methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN(C)CC(=O)N(C)C | C24H42N4O4
